US06949648B2
A solution of 4-chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline (0.8 g, 2.71 mmol) in 40% methylamine in methanol (21 mL, 0.27 mol) was heated under reflux at 100° C. for 4 hours in a sealed stainless tube. The solution was allowed to cool to room temperature, and concentrated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (chloroform:methanol=98:2) to give an oil of N-methyl-N-[3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinolin-4-yl]amine. To a solution of the oil in ethanol (10 mL), was added a saturated hydrochloric acid/ethanol solution (10 mL), and the solvent was evaporated under reduced pressure. The residue thus obtained was recrystallized from methanol/ethyl acetate to give the title compound (0.63 g, 64% yield).

reactant | 4-chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 2.71 mmol, 0.8 g | ClC1=C2C(=NC3=CC=CC=C13)N(N=C2C)C2=NC=CC=C2 | C16H11ClN4
reactant | methanol | 0.27 mol, 21 mL | CO | CH4O
reactant | methylamine | CN | CH5N
product | N-methyl-N-[3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinolin-4-yl]amine | CNC1=C2C(=NC3=CC=CC=C13)N(N=C2C)C2=NC=CC=C2 | C17H15N5
